US06004948
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid morpholinamide
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride (1.36 g, 3.2 mmol) was dissolved in dioxan (5 ml) and at 0° C. added dropwise to a solution of morpholine (2.25 ml, 25.6 mmol) in 1N aqueous NaOH (26 ml, 26 mmol) and dioxan (20 ml). The mixture was stirred for 1 hour at 0° C., acidified with 1N HCl and extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and the solvent was evaporated off. The residue was purified by chromatography (silica gel, CH2Cl2 /ethyl acetate 9/1). Yield: 0.93 g=60% 13C (100 MHz, DMSO-d6) δ 150.02, 147.15, 133.44, 130.43, 129.51, 129.31, 129.18, 126.23, .125.98, 123.95, 123.02, 122.51, 116.78, 115.83, 65.41, 45.83, 41.03

reactant | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride | 3.2 mmol, 1.36 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | morpholine | 25.6 mmol, 2.25 ml | N1CCOCC1 | C4H9NO
reactant | NaOH | 26 mmol, 1N, 26 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid morpholinamide | N1(CCOCC1)C(=O)N.ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)O)C=CC(=C1)Cl | InChI=1S/C13H11Cl2NO6S2.C5H10N2O2/c1-23(17,18)16-11-4-3-9(24(19,20)21)7-13(11)22-12-5-2-8(14)6-10(12)15;6-5(8)7-1-3-9-4-2-7/h2-7,16H,1H3,(H,19,20,21);1-4H2,(H2,6,8)
